US07935782B2
59. Synthesis of T-Butyl(1-Ethoxy-1,2-Dihydrocyclobutabenzen-1-Yloxy)Dimethylsilane
A stirring solution of (phenyl)[2-(trimethylsilyl)phenyl]iodonium triflate (1.0 g, 2.0 mmol) and t-butyl(1-ethoxyvinyloxy)dimethylsilane (1.85 g, 9.96 mmol) in CH2Cl2 (14 mL) was chilled to 0° C. Bu4NF (2.39 mL) was added dropwise to the solution and the reaction allowed to come to r.t. After 3 h., water (75 mL) was added to the reaction and the solution was extracted with EtOAc (3×, 50 mL). The organic phases were dried (Na2SO4) and concentrated to give the crude cycloadduct. 1H-NMR (300 MHz, CDCl3) δ 0.06 (s, 6H, CH3), 0.89 (s, 9H, CH3), 0.97 (s, 3H, CH3), 3.19 (m, 2H, CH2), 4.09 (q, 2H, J=7.1 Hz, CH2), 7.08 (t, 1H, J=7.7 Hz, ArH), 7.18 (d, 1H, J=2.3 Hz, ArH), 7.30 (dd, 1H, J=5.0 Hz, J=8.7 Hz, ArH), 7.67 (d, 1H, J=7.2 Hz, ArH).

reactant | (phenyl)[2-(trimethylsilyl)phenyl]iodonium triflate | 2.0 mmol, 1.0 g | [O-]S(=O)(=O)C(F)(F)F.C1(=CC=CC=C1)[I+]C1=C(C=CC=C1)[Si](C)(C)C
reactant | t-butyl(1-ethoxyvinyloxy)dimethylsilane | 9.96 mmol, 1.85 g | C(C)(C)(C)[Si](C)(C)OC(=C)OCC | C10H22O2Si
reactant | Bu4NF | 2.39 mL | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | water | 75 mL | O | H2O
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | T-Butyl(1-Ethoxy-1,2-Dihydrocyclobutabenzen-1-Yloxy)Dimethylsilane | C(C)(C)(C)[Si](C)(C)OC1(CC2=C1C=CC=C2)OCC | C16H26O2Si
